US05650428
The procedure described in Example 105 was repeated, except that (RS)-2-(4-chlorobenzenesulfonylamino)-3-methanesulfonyloxy-N-(3-methoxycarbonylpropyl)propanamide (102.2 mg) was reacted with 3-hydroxypyridine to obtain (RS)-2-(4-chlorobenzenesulfonylamino)-N-(3-methoxycarbonylpropyl)-3-(pyridin-3-yloxy)propanamide (92.8 mg).

reactant | (RS)-2-(4-chlorobenzenesulfonylamino)-3-methanesulfonyloxy-N-(3-methoxycarbonylpropyl)propanamide | 102.2 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NCCCC(=O)OC)COS(=O)(=O)C | C15H21ClN2O8S2
reactant | 3-hydroxypyridine | OC=1C=NC=CC1 | C5H5NO
product | (RS)-2-(4-chlorobenzenesulfonylamino)-N-(3-methoxycarbonylpropyl)-3-(pyridin-3-yloxy)propanamide | 92.8 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NCCCC(=O)OC)COC=1C=NC=CC1 | C19H22ClN3O6S
